US07915297B2
To a solution of 2.21 g of methane sulfonic acid 5-furan-2-yl-isoxazol-3-ylmethyl ester in 45 mL of DMF was added 0.61 g of sodium azide. After stirring for 15 hrs, the reaction mixture was concentrated under reduced pressure. The residue was dissolved in methylene chloride and distilled water, and the organic layer was separated. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford 1.50 g of 3-azidomethyl-5-furan-2-yl-isoxazole. This concentrate was used in the next step without further purification.

reactant | methane sulfonic acid 5-furan-2-yl-isoxazol-3-ylmethyl ester | 2.21 g | O1C(=CC=C1)C1=CC(=NO1)COS(=O)(=O)C | C9H9NO5S
reactant | sodium azide | 0.61 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 3-azidomethyl-5-furan-2-yl-isoxazole | 1.50 g | N(=[N+]=[N-])CC1=NOC(=C1)C=1OC=CC1 | C8H6N4O2
